US04812164
using 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-ethoxy-4-pentafluoroethyl-6(1H)-pyrimidinone and dimethyl sulphate with sodium carbonate in acetone there is obtained 2-ethoxy-1-(4-chloro-2-fluoro-5 -methoxyphenyl)-4-pentafluoroethyl-6(1H)-pyrimidinone, 1H-NMR (CDCl3, 400 MHz): 7.33 ppm (d,1H), 6.79 ppm (d,1H), 6.65 ppm (s,1H), 4.48 ppm (m,2H), 3.89 ppm (s,3H), 1.29 ppm (t,3H);

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-ethoxy-4-pentafluoroethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1O)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)OCC)F | C14H9ClF6N2O3
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-ethoxy-1-(4-chloro-2-fluoro-5 -methoxyphenyl)-4-pentafluoroethyl-6(1H)-pyrimidinone | C(C)OC=1N(C(C=C(N1)C(C(F)(F)F)(F)F)=O)C1=C(C=C(C(=C1)OC)Cl)F | C15H11ClF6N2O3
